* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP7159-04.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 4
C1 OUT 0 10µ
R1 N003 N005 175K
R2 N005 0 100K
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ Rser=10m Lser=1n
R3 IN N001 100K
X§U1 OUT MP_01 OUT N002 N001 N005 N003 N004 IN 0 ADP7158_9 Vreg=3.611 Vref=1.216
Rload OUT 0 3.3
.tran 5m startup
.lib ADP7158_9.sub
.backanno
.end
