* 12V to 5V Buck (LTC3630A) to 3.3V LDO (ADP7185) Power Chain
*
* Subsystem Description:
* An LTC3630A buck regulator converts 12V to 5V.
* The 5V rail powers an ADP7185 LDO which generates the final output rail.
* NOTE: The provided ADP7185 is a negative LDO and will not produce a positive 3.3V
* output from a positive 5V input as specified in the request. The netlist
* reflects the requested connections using the provided IC models.

* --- Global Input ---
V_IN V_12V 0 12

* --- Buck Regulator Stage (12V to 5V) ---
XU_BUCK BUCK_SW MP_01 V_12V MP_02 BUCK_RUN 0 BUCK_INTVCC 0 BUCK_FB BUCK_INTVCC NC_03 NC_04 LTC3630
L_BUCK BUCK_SW V_5V 22u Rser=50m
C_BUCK_OUT V_5V 0 22u Rser=0.003 Lser=0 ; mfg="TDK" pn="C575OX5RIE226M" type="X5R"
R_FB1 V_5V BUCK_FB 200K
R_FB2 BUCK_FB 0 147K
R_LOAD_5V V_5V 0 24

* --- LDO Regulator Stage (5V to 3.3V) ---
XU_LDO V_3V3 V_3V3 LDO_NR LDO_SS V_5V 0 LDO_UVLO V_5V ADP7185
C_LDO_IN V_5V 0 10u Rser=5m
C_LDO_OUT V_3V3 0 4.7u Rser=5m
C_LDO_NRSS LDO_NR LDO_SS 10n
C_LDO_NR LDO_NR 0 1u
C_LDO_UVLO LDO_UVLO 0 1u
R_LOAD_3V3 V_3V3 0 2

* --- Analysis and Libraries ---
.lib LTC3630.sub
.lib ADP7185.sub
.tran 200m startup
.end

