* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2371-ADJ.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 12
L1 N002 OUT 10µ Ipk=1.84 Rser=0.056 Rpar=942 Cpar=0 mfg="Coilcraft" pn="MSS6132-103"
C1 OUT 0 10µ
R1 OUT N001 10K
X§U1 IN IN IN IN N002 N003 N001 0 ADP2370 IPSM=400m Rt=100MEG Rb=100MEG C1=1.6p Rc1=100k R3=5.92k Rshort=100m PD=1
R2 OUT N003 232K
R3 N003 0 44.2K
Rload OUT 0 20
.tran 500u startup
.lib ADP2370.sub
.backanno
.end
