* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2504-ADJ.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N002 1.5µ Rser=80m
C1 OUT 0 10µ
V1 IN 0 3.3
Rload OUT 0 50
R1 OUT N003 900K
R2 N003 0 100K
X§U1 N001 N002 N003 IN IN 0 OUT NC_01 ADP2503_4 Vout=0.5001 Limit=1.65 R2=1G
.tran 400u startup
* PSM and forced PWM modes are modelled\nClock Sync is not modelled
.lib ADP2503_4.sub
.backanno
.end
