* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1074.asc
* Generated by LTspice 24.1.9 for Windows.
L2 N005 N001 20µ Rser=80m
L1 N004 IN 80µ Rser=80m
M§Q1 N004 N006 N009 N009 Si4490DY
R1 N009 0 8m
C5 OUT 0 220µ Rser=10m
C8 OUT 0 1µ Rser=1m
V1 IN 0 48
R2 N009 N010 1.21K
Rload OUT 0 12
C2 0 N020 22n
R10 N018 N017 30.1K
C3 N017 0 200p
C6 N018 0 10n
R8 OUT N014 8.87K
R9 N014 0 976
R6 OUT N015 8.87K
R7 N015 0 976
R3 N006 0 10K
L3 N001 OUT 4.7µ Rser=5m
M§Q2 N005 N011 0 0 Si4470DY
C4 0 N013 2.2µ
R4 N021 N019 1
C7 N016 0 10n
M§Q3 N001 N002 0 0 Si4470DY
R5 N019 0 121K
C9 N003 N004 22n
M§Q4 N003 N007 0 0 IRFP9240
C1 N007 N008 100n
D1 N007 0 BAT46WJ
C10 N012 0 1µ
X§U1 N006 0 N008 0 N012 IN IN N010 N021 0 N016 N019 0 NC_01 0 N017 N014 N015 OUT N013 N020 0 N002 N011 ADP1074
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 0.9999
.tran 2.2m startup
.lib ADP1074.sub
.backanno
.end
