* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP123.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5.5
R1 OUT N001 460k
R2 N001 0 100k
C2 OUT 0 1µ
Rload OUT 0 100
C1 IN 0 1µ
X§U1 OUT N001 0 IN MP_01 IN ADP123
.tran 10m startup
.lib ADP123.sub
.backanno
.end
