* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1606.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 0.9
Cout OUT 0 6µ Rser=2m
L1 IN N001 2.2µ Rser=22m
Rload OUT 0 22
X§U1 OUT 0 IN MP_01 N001 MP_02 IN MP_03 MP_04 MP_05 0 ADP1606
.tran 1m startup
.lib ADP1606.sub
.backanno
.end
