* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1607.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 0.9
Cout OUT 0 6µ Rser=10m
L1 IN N001 2.2µ Rser=22m
Rload OUT 0 22K
X§U1 OUT N002 IN MP_01 N001 MP_02 IN MP_03 MP_04 MP_05 0 ADP1607
R1 OUT N002 100K
R2 N002 0 60K
.tran 1.6m startup
.lib ADP1607.sub
.backanno
.end
