* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1613.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N004 N003 20K
C1 N003 0 33n
R3 N002 0 10K
R4 OUT N002 88.7K
V1 IN 0 5
L1 IN N001 15µ Rser=200m
D1 N001 OUT MBRS130L
C2 OUT 0 8.7µ Rser=2m
C3 N004 0 10p
Rload OUT 0 100
X§U1 N004 N002 IN 0 N001 IN 0 ADP1613
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 4m startup
.lib ADP1613.sub
.backanno
.end
