* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1614.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N003 0 47n
R2 N002 0 10k
R1 OUT N002 88.7k
V1 IN 0 3
L1 IN N001 6.8µ Rser=173m
C2 OUT 0 33µ Rser=2m
C3 N004 N005 0.15µ
Rload OUT 0 30.1
D1 N001 OUT MBRS340
R3 N005 0 7.87k
C4 N004 0 10p
X§U1 N004 N002 IN 0 MP_01 N001 MP_02 IN 0 N003 ADP1614
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20m startup
.lib ADP1614.sub
.backanno
.end
