* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1621.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N005 N008 3.65K
C1 N008 0 6.8n
R2 N006 0 34.8K
R3 N007 0 8.45K
R4 OUT N007 75K
R5 N004 0 18m
V1 IN 0 5
L1 IN N001 4.7µ Rser=100m
D1 N001 OUT MBRS130L
C2 OUT 0 4.7µ
R6 N004 N003 953
C3 N005 0 330p
M§Q1 N001 N002 N004 N004 BSC090N03MS
Rload OUT 0 100
X§U1 N006 IN IN IN N002 N003 N005 N007 MP_01 0 ADP1621
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 4.5m startup
.lib ADP1621.sub
.backanno
.end
