* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1708.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5.5
R1 OUT N001 187k
R2 N001 0 59k
C2 OUT 0 4.7µ
Rload OUT 0 100
C1 IN 0 4.7µ
X§U1 OUT OUT N001 0 IN MP_01 MP_02 IN ADP1708
.tran 10m startup
.lib ADP1708.sub
.backanno
.end
