* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1741.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N002 0 10n
V1 IN 0 1.8
C1 OUT 0 4.7µ Rser=3m
R1 IN N001 100k
R2 OUT N003 106k
R3 N003 0 59k
R4 OUT 0 1
X§U1 IN N003 IN N002 OUT N001 0 ADP1741
.tran 50m startup
.lib ADP1741.sub
.backanno
.end
