* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1850.asc
* Generated by LTspice 24.1.9 for Windows.
Rc1 N012 0 29.4K
Cc2 N006 N005 500p
Rc3 OUT1 N009 93.1K
L1 N007 OUT1 2.2µ Rser=5.1m
C1 OUT1 0 178µ Rser=7m
Rload1 OUT1 0 2
M1 N007 N011 0 0 BSZ0901NS
M2 IN N002 N007 N007 BSC080N03MS
R2 N007 N008 2K
C2 N004 N007 100n
Rr1 IN N001 150K
Cc6 N009 N012 150p Rpar=1.91K
V1 IN 0 12
X§U1 N006 N012 N010 N007 0 0 N004 IN IN NC_01 N010 N001 N003 N010 N011 N002 N010 N010 N008 MP_02 MP_03 MP_04 N015 MP_05 MP_06 N021 N022 IN N014 NC_07 0 MP_08 MP_09 N019 N023 N017 N013 MP_10 MP_11 N016 MP_12 N010 ADP1850
Rc2 N022 0 29.4K
Cc1 N021 N020 500p
Rc4 OUT2 N018 93.1K
L2 N015 OUT2 1.5µ Rser=5.1m
C3 OUT2 0 178µ Rser=7m
Rload2 OUT2 0 2
M3 N015 N017 0 0 BSZ0901NS
M4 IN N013 N015 N015 BSC080N03MS
R1 N015 N016 2K
C4 N014 N015 100n
Cc5 N018 N022 220p Rpar=1.91K
Rc6 N005 0 133K
Rr2 N023 IN 150K
C5 N010 0 1µ
C6 N019 0 2n
C7 N003 0 2n
Rc5 N020 0 133K
R3 N011 0 22K
R4 N017 0 22K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 400u startup
.lib ADP1850.sub
.backanno
.end
