* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1851.asc
* Generated by LTspice 24.1.9 for Windows.
Rc1 N010 0 8.87k
C5 N011 N012 39p
C6 N012 N010 8.2p
Rc3 OUT N009 8.25K
L1 N005 OUT 1µ Rser=5.1m
C1 OUT 0 330µ Rser=7m
Rload OUT 0 0.18
M1 N005 N008 0 0 BSC0902NSI
M2 IN N002 N005 N005 BSC080N03MS
R2 N005 N006 1.5k
C2 N004 N005 100n
Rr IN N001 162K
Cvcc N003 0 1µ
V1 IN 0 12
C3 N007 0 2n
R1 N009 N010 9.53k
C4 N009 N010 150p
R3 N010 N012 267k
X§U1 N011 N010 N003 N005 0 0 N004 IN IN NC_01 N003 N001 N007 N008 N002 N003 N006 ADP1851
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran .5m startup
.lib ADP1851.sub
.backanno
.end
