* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1853.asc
* Generated by LTspice 24.1.9 for Windows.
Rc1 N012 0 8.78K
Cc1||Rc4 N010 N011 39p
Cc3||Rc5 N011 N012 8.2p Rpar=267k
Rc3 OUT N009 8.25K
L1 N005 OUT 1.5µ Rser=5.1m
C1 OUT 0 330µ Rser=7m
Rload OUT 0 1
M1 N005 N008 0 0 BSC100N03LS
M2 IN N002 N005 N005 BSC080N03MS
R2 N005 N006 2K
C2 N004 N005 100n
Css N007 0 2n
Rr IN N001 162K
C§Rc2||Cc1 N009 N012 150p Rpar=9.53k
Cvcc N003 0 1µ
V1 IN 0 12
X§U1 N010 N012 N003 N005 0 0 N004 IN IN NC_01 N003 N001 N007 N003 N008 N002 N005 N003 N006 NC_02 ADP1853
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 400u startup
.lib ADP1853.sub
.backanno
.end
