* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP198.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 1.65
C2 OUT 0 1µ
Rload OUT 0 100
X§U1 IN IN OUT 0 ADP198
.tran 10m startup
.lib ADP198.sub
.backanno
.end
