* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2164.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N002 OUT 1µ Rser=6m
R1 OUT N003 10K
R2 N003 0 10K
R4 N004 0 45.3K
V1 IN 0 5
Rload OUT 0 .4
R3 OUT N005 100K
R5 IN N001 10
C3 OUT 0 85µ Rser=2m
C1 N001 0 100n
X§U1 N001 N004 IN N003 0 0 N002 IN N001 N001 N005 ADP2164
.tran 2m startup
.lib ADP2164.sub
.backanno
.end
