* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2300.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 12
L1 N002 OUT 6.8µ Ipk=1.84 Rser=0.056 Rpar=942 Cpar=0 mfg="Coilcraft" pn="MSS6132-103"
C1 OUT 0 10µ
C2 N001 N002 100n
R1 OUT N003 69.8K
R2 N003 0 13.3K
D1 0 N002 MBRS340
X§U1 IN IN N001 N002 N003 0 ADP2300_1 FREQ=0 CSGain=0.25
Rload OUT 0 10
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib ADP2300_1.sub
.backanno
.end
