* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2311.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 12
R3 OUT1 N003 500K
L2 N011 OUT2 22µ Rser=52m
R4 OUT2 N012 10k
R5 N012 0 2.21k
C2 OUT2 0 27µ Rser=2m
Rload2 OUT2 0 13.2
C5 N009 N011 0.1µ
L1 N005 OUT1 22µ Rser=52m
R1 OUT1 N007 10k
R2 N007 0 2.21k
C1 OUT1 0 27µ Rser=2m
Rload1 OUT1 0 13.2
C3 N004 N005 0.1µ
R6 N002 OUT1 500K
R7 N001 OUT1 500K
R8 IN N006 500k
R9 N006 0 66.5k
R10 IN N008 500k
R11 N008 0 66.5k
C4 N010 0 0.1µ
X§U1 IN IN N005 N007 0 N012 N006 N003 N004 N011 N010 IN 0 0 N008 NC_01 N002 N009 N001 NC_02 ADP2311
.tran 5m startup
.lib ADP2311.sub
.backanno
.end
