* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2360.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
R1 IN N001 100K
R2 IN N003 22Meg
C1 N005 0 1n
L1 N002 OUT 100µ Rpar=50k
C2 OUT 0 10µ Rser=3m
R3 OUT N004 357K
R4 N004 0 115K
C3 OUT N004 10p
Rload OUT 0 66
X§U1 N001 N003 0 N004 N005 0 N002 IN 0 ADP2360
.tran 3m startup
.lib ADP2360.sub
.backanno
.end
