* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2386.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N008 0 1n
L1 N004 OUT 3.3µ
R1 OUT N007 64.9K
R2 N007 0 16.2K
C2 N003 N004 .1µ
C3 OUT 0 54µ
R3 N009 0 215K
C4 N005 0 2.7n
R4 N006 N005 7.5K
V1 IN 0 13.2
R5 OUT N001 100K
C5 N002 0 1µ
C6 N006 0 27p
X§U1 N009 IN N004 N006 N007 IN N003 N008 0 NC_01 N001 N002 ADP2386
Rload OUT 0 900m
.tran 5m startup
.lib ADP2386.sub
.backanno
.end
