* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2387.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N009 0 1n
L1 N005 OUT 3.3µ
R1 OUT N008 64.9K
R2 N008 0 16.2K
C2 N003 N005 .1µ
C3 OUT 0 54µ
R3 N010 0 215K
C4 N006 0 2.7n
R4 N007 N006 7.5K
V1 IN 0 13.2
R5 OUT N001 100K
C5 N002 0 1µ
C6 N007 0 27p
X§U1 N010 IN N005 N007 N008 IN N003 N009 0 N004 N001 N002 ADP2387
R6 N004 0 66.5K
Rload OUT 0 900m
.tran 5m startup
.lib ADP2387.sub
.backanno
.end
