* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2389.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N010 0 2n
L1 N005 OUT 1µ Rser=2m
R1 OUT N009 20K
R2 N009 0 10K
C2 N003 N005 .1µ
C3 OUT 0 305µ Rser=2m
R3 N011 0 121K
C4 N007 0 1.5n
R4 N008 N007 27K
V1 IN 0 12
R5 OUT N001 100K
C5 N002 0 1µ
C6 N008 0 22p
R6 N004 0 150K
Rload OUT 0 .18
X§U1 N011 IN N005 N008 N009 IN N003 N010 0 N006 N001 N002 N004 IN 0 ADP2389
R7 N006 0 59K
.tran 1m startup
.lib ADP2389.sub
.backanno
.end
