* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2441.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N003 OUT 27.3µ Rser=89m
R1 OUT N005 73.2K
R2 N005 0 10K
C2 N001 N003 10n
C4 N009 N008 270p
R4 N008 0 118K
V1 IN 0 24
Rload OUT 0 5
R6 N006 0 182K
R3 N007 N010 50K
R7 IN N002 182K
R8 N002 0 10K
C3 OUT 0 38µ Rser=1m
C1 N007 0 1µ
X§U1 N009 N005 N007 N003 0 0 N001 IN N002 N010 N006 N004 ADP2441
.tran 3m startup
.lib ADP2441.sub
.backanno
.end
