* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2442.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N003 OUT 27.3µ Rser=89m
R1 OUT N004 73.2k
R2 N004 0 10k
C2 N001 N003 10n
C4 N008 N007 270p
R4 N007 0 118k
V1 IN 0 24
Rload OUT 0 5
R6 N005 0 182k
R3 N006 N009 50K
R7 IN N002 182k
R8 N002 0 10K
C3 OUT 0 38µ Rser=1m
C1 N006 0 1µ
X§U1 N008 N004 N006 N003 0 0 N001 IN N002 N009 N005 0 ADP2442
.tran 3m startup
.lib ADP2442.sub
.backanno
.end
