* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2443.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N005 0 5n
L1 N004 OUT 3.3µ
R1 OUT N006 22K
R2 N006 0 3K
C2 N002 N004 .1µ
C4 N010 N009 2.7n
R4 N009 0 20K
V1 IN 0 24
Rload OUT 0 5
X§U1 N010 N006 N008 0 N004 0 N002 IN N003 N011 N007 N001 N005 ADP2443
R6 N007 0 280K
R3 N008 N011 50K
R5 IN N001 1.5Meg
R7 IN N003 75K
R8 N003 0 10K
C3 OUT 0 47µ
C5 N008 0 1µ
.tran 1.5m startup
.lib ADP2443.sub
.backanno
.end
