* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP3654.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N004 0 5
V2 N001 0 PULSE(0 2 0 1n 1n 5u 10u)
X§U1 0 N001 N001 N002 N003 N004 ADP3654
.tran 100u
.lib ADP3654.sub
.backanno
.end
